US09328110B2
The general methods described in Steps 9 and 10 of Example 1 and Step 7 of Example 16 was used to aminate N-methoxy-N-methyl-12-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)dodecanamide (4.01 g, 8.86 mmol) by reaction with m-CPBA (6.13 g) to provide N-methoxy-N-methyl-12-(5-oxido-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)dodecanamide followed by reaction with p-toluenesulfonyl chloride (2.53 g, 13.3 mmol) and ammonium hydroxide solution (40 mL) to provide 2-(4-amino-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)-N-methoxy-N-methyldodecanamide hydrochloride as an off-white solid after recrystallizationof the hydrochloride salt from isopropanol, mp 156-158° C.

reactant | N-methoxy-N-methyl-12-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)dodecanamide | 8.86 mmol, 4.01 g | CON(C(CCCCCCCCCCCN1C(=NC=2C=NC=3C=CC=CC3C21)CCC)=O)C | C27H40N4O2
reactant | m-CPBA | 6.13 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | N-methoxy-N-methyl-12-(5-oxido-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)dodecanamide | CON(C(CCCCCCCCCCCN1C(=NC=2C=[N+](C=3C=CC=CC3C21)[O-])CCC)=O)C | C27H40N4O3
